US04699905
67(a) N-t-butoxycarbonyl-S-[2-nitro-1-(3-thienyl)ethyl]-L-cysteine
N-t-butoxycarbonyl-L-cysteine [prepared from 58.6 g of L-cysteine p-toluenesulfonate, 50 g of di-t-butyl pyrocarbonate and 50 g of sodium bicarbonate in the manner described in Example 63(a)] was treated with 32 g of 1-nitro-2-(3-thienyl)ethylene and 6 g of sodium bicarbonate to give 74.8 g of the title compound as a syrup.

reactant | N-t-butoxycarbonyl-L-cysteine | C(C)(C)(C)OC(=O)N[C@@H](CS)C(=O)O | C8H15NO4S
reactant | L-cysteine p-toluenesulfonate | 58.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@@H](CS)C(=O)O
reactant | di-t-butyl pyrocarbonate | 50 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 50 g | C([O-])(O)=O.[Na+]
reactant | 1-nitro-2-(3-thienyl)ethylene | 32 g | [N+](=O)([O-])C=CC1=CSC=C1 | C6H5NO2S
reactant | sodium bicarbonate | 6 g | C([O-])(O)=O.[Na+]
product | N-t-butoxycarbonyl-S-[2-nitro-1-(3-thienyl)ethyl]-L-cysteine | 74.8 g | C(C)(C)(C)OC(=O)N[C@@H](CSC(C[N+](=O)[O-])C1=CSC=C1)C(=O)O | C14H20N2O6S2
